US05298512
cis-7-Benzyloxy-3-(3-pyridyloxy)-4-chromanol
By the method of Example 1, 7-benzyloxy-3-bromo-4-chromanone was converted to 7-benzyloxy-3-(3-pyridyloxy)-4-chromanone, which, by the method of Example 2 was converted to present title product, mp 73°-75° C.; HRMS 349.1302, calcd. 349 1315; 1H-NMR (300 MHz, CDCl3) includes delta 5.04 (s, 2H).

reactant | 7-benzyloxy-3-bromo-4-chromanone | C(C1=CC=CC=C1)OC1=CC=C2C(C(COC2=C1)Br)=O | C16H13BrO3
reactant | 7-benzyloxy-3-(3-pyridyloxy)-4-chromanone | C(C1=CC=CC=C1)OC1=CC=C2C(C(COC2=C1)OC=1C=NC=CC1)=O | C21H17NO4
product | cis-7-Benzyloxy-3-(3-pyridyloxy)-4-chromanol | C(C1=CC=CC=C1)OC1=CC=C2[C@@H]([C@@H](COC2=C1)OC=1C=NC=CC1)O | C21H19NO4
